US04737496
Methanol (20 L) and 2.37 kg of methyl 1,3,4,16b-tetrahydro-2-methyl-2H,10H-indolo[2,1-c]pyrazino[1,2-a][1,4]benzodiazepine-16-carboxylate are combined, heated to reflux, and the mixture is treated with a solution of hydrogen chloride in methanol (7.6N, 870 ml). The reaction mixture is maintained at reflux for 10 minutes and then is allowed to cool gradually to room temperature while stirring overnight. The suspension is filtered and the solid hydrochloride is washed with methanol (2×500 ml) and dried (18 hours, 80°/0.1 mm Hg). The obtained compound is added to boiling water (31 L) and the mixture is stirred at reflux until solution is complete (20 minutes). Heating is then discontinued and the mixture is stirred overnight at 15°, cooled to 5°, filtered and the collected solid is washed with water (1 L). The product is dried (6 hours, 80°/3 mm Hg; 30 hours, 100°/0.1 mm Hg), passed through a 40 mesh screening and dried further (15 hours, 110°/0.1 mm Hg) to give methyl 1,3,4,16b-tetrahydro-2-methyl-2H,10H-indolo[2,1-c]pyrazino[1,2-a][1,4]benzodiazepine-16-carboxylate hydrochloride, mp 275°-277°.

reactant | methyl 1,3,4,16b-tetrahydro-2-methyl-2H,10H-indolo[2,1-c]pyrazino[1,2-a][1,4]benzodiazepine-16-carboxylate | 2.37 kg | CN1CC2N(C3=C(CN4C2=C(C=2C=CC=CC24)C(=O)OC)C=CC=C3)CC1 | C22H23N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 7.6N, 870 ml | CO | CH4O
solvent | Methanol | 20 L | CO | CH4O
product | methyl 1,3,4,16b-tetrahydro-2-methyl-2H,10H-indolo[2,1-c]pyrazino[1,2-a][1,4]benzodiazepine-16-carboxylate hydrochloride | Cl.CN1CC2N(C3=C(CN4C2=C(C=2C=CC=CC24)C(=O)OC)C=CC=C3)CC1 | InChI=1S/C22H23N3O2.ClH/c1-23-11-12-24-17-9-5-3-7-15(17)13-25-18-10-6-4-8-16(18)20(22(26)27-2)21(25)19(24)14-23;/h3-10,19H,11-14H2,1-2H3;1H
